US06235739B1
2.00 g (13.14 mM) of isovanillin, 1.61 g (13.14 mM) of phenethyl alcohol, and 4.14 g (15.77 mM) of triphenylphosphine were dissolved in 50 ml of dried tetrahydrofuran. 2.75 g (15.77 mM) of diethyl azodicarboxylate was dropwise added carefully at room temperature. After stirring overnight at room temperature, the solution was diluted with 100 ml of diethyl ether and washed with an aqueous sodium hydroxide solution and water in this order. The organic solution was dried over anhydrous magnesium sulfate and the solvent was evaporated in vacuo to obtain a light yellow oily residue. The residue was purified by flash chromatography (SiO2: eluted with 25% hexane/ethyl acetate). The solvent was evaporated in vacuo and the result was dried to obtain 2.88 g of light yellow oily 4-methoxy-3-phenetyloxybenzaldehyde (yield 85.5%).

reactant | isovanillin | 13.14 mM, 2.00 g | O=CC1=CC(O)=C(OC)C=C1 | C8H8O3
reactant | phenethyl alcohol | 13.14 mM, 1.61 g | C(CC1=CC=CC=C1)O | C8H10O
reactant | triphenylphosphine | 15.77 mM, 4.14 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 15.77 mM, 2.75 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | 4-methoxy-3-phenetyloxybenzaldehyde | 2.88 g, yield 85.5% | COC1=CC(=C(C=O)C=C1)OC1=CC(=CC=C1)OCC | C16H16O4
